US08895745B2
Step (e): 7-(4-fluoro-phenyl)-3-iodo-imidazo[1,2-a]pyridine
To a solution of 7-(4-fluoro-phenyl)-imidazo[1,2-a]pyridine (13.0 g, 61.3 mmol) in N,N-dimethylformamide (100 mL) stirring under a nitrogen atmosphere at ambient was added N-iodosuccinimide (14.5 g, 64.4 mmol). The reaction mixture was stirred for 2 h and then poured into water (1 L) and stirred for a further 30 min. The solid obtained was collected by filtration, washed with water and air dried on the filter. The solid was triturated with ether, collected by filtration and dried under vacuum at 50° C. The solid obtained was partitioned between water and EtOAc. The organic layer was washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure. The solid thus obtained was partitioned between aqueous sodium thiosulphate solution and EtOAc. The organic layer was washed with brine, dried (MgSO4) and concentrated under reduced pressure. The product was triturated with EtOAc, collected by filtration and air-dried to afford 6.0 g (29%) of the title compound. 1H NMR (400 MHz, CDCl3) δ 8.23 (1H, d), 7.91 (1H, s), 7.78 (1H, s), 7.67 (2H, dd), 7.28 (1H, d), 7.22 (2H, t). A further crop of product (11.0 g) containing minor impurities was obtained by evaporating the filtrates under reduced pressure, triturating with petrol/EtOAc and collection by filtration.

reactant | 7-(4-fluoro-phenyl)-imidazo[1,2-a]pyridine | 61.3 mmol, 13.0 g | FC1=CC=C(C=C1)C1=CC=2N(C=C1)C=CN2 | C13H9FN2
reactant | N-iodosuccinimide | 64.4 mmol, 14.5 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | water | 1 L | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 7-(4-fluoro-phenyl)-3-iodo-imidazo[1,2-a]pyridine | 6.0 g, 29% | FC1=CC=C(C=C1)C1=CC=2N(C=C1)C(=CN2)I | C13H8FIN2
